US04433152
A mixture of 4.0 g of 1-amidino-4-piperidinepropionic acid hydrochloride, 2.0 g of o-cyanophenol and 3.5 g of dicyclohexylcarbodiimide was stirred at room temperature for 24 hours in 20 ml of dry pyridine. Any insoluble materials were filtered and washed with dry pyridine. The filtrate and washings were combined together, and the solvent was removed under reduced pressure. Ethyl acetate was added to the residue to give crystals which were then recrystallized from water to obtain 2.1 g (yield: 37%) of o-cyanophenyl 1-amidino-4-piperidinepropionate as colorless crystals having a melting point of 159.5° to 162.5° C.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 4.0 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | o-cyanophenol | 2.0 g | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | dicyclohexylcarbodiimide | 3.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | o-cyanophenyl 1-amidino-4-piperidinepropionate | 2.1 g, yield: 37% | C(N)(=N)N1CCC(CC1)CCC(=O)OC1=C(C=CC=C1)C#N | C16H20N4O2
